US06100407
Preparation of lovastatin ethylamide:
A mixture of lovastatin (5.0 g, 0.012 mol) and 2N solution of ethylamine in tetrahydrofuran (37 ml, 0.074 mol) was heated to gentle reflux at 70° C. for 10 hours. The solution was cooled to ambient temperature and ethyl acetate (100 ml) was added; the mixture was washed with 2N hydrochloric acid (3×50 ml). The combined aqueous layers were washed with ethyl acetate (100 ml) and the combined organic layers with water (2×100 ml). The organic layer was dried over sodium sulphate, filtered and evaporated at reduced pressure to give an orange oil.

reactant | lovastatin | 0.012 mol, 5.0 g | CC[C@H](C)C(=O)O[C@H]1C[C@H](C=C2[C@H]1[C@H]([C@H](C=C2)C)CC[C@@H]3C[C@H](CC(=O)O3)O)C | C24H36O5
reactant | ethylamine | C(C)N | C2H7N
reactant | tetrahydrofuran | 0.074 mol, 37 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | lovastatin ethylamide | CC[C@H](C)C(=O)O[C@H]1C[C@H](C=C2[C@H]1[C@H]([C@H](C=C2)C)CC[C@@H]3C[C@H](CC(=O)O3)O)C.C(C)[NH-] | InChI=1S/C24H36O5.C2H6N/c1-5-15(3)24(27)29-21-11-14(2)10-17-7-6-16(4)20(23(17)21)9-8-19-12-18(25)13-22(26)28-19;1-2-3/h6-7,10,14-16,18-21,23,25H,5,8-9,11-13H2,1-4H3;3H,2H2,1H3/q;-1/t14-,15-,16-,18+,19+,20-,21-,23-;/m0./s1
